US05321135
Synthesis of (E)-methyl 3-(3,4,5-trimethoxyphenyl)prop-2-enoate
Added to a solution of 8.68 g (0.044 mol) of 3,4,5-trimethoxybenzaldehyde in 50 ml of methanol were 15.0 g (0.044 mol) of methyl (triphenylphosphoranylidene)acetate, followed by stirring at room temperature for 18 hours. The solvent was distilled off under reduced pressure. The residue thus obtained was purified by column chromatography (silica gel: "MERCK #9385", eluent: 1:1 mixed solvent of ethyl acetate and hexane), whereby 11.24 g of the title compound were obtained as a colorless solid (quantitative yield).

reactant | 3,4,5-trimethoxybenzaldehyde | 0.044 mol, 8.68 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | methyl (triphenylphosphoranylidene)acetate | 0.044 mol, 15.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | methanol | 50 ml | CO | CH4O
product | (E)-methyl 3-(3,4,5-trimethoxyphenyl)prop-2-enoate | 11.24 g | COC=1C=C(C=C(C1OC)OC)/C=C/C(=O)OC | C13H16O5
